US08729219B2
Into a 2 L three-neck flask equipped with a stirrer, a thermometer and a nitrogen-introducing tube, 240.2 g (2.50 mol) of fluorobenzene was introduced, and was cooled to 10° C. in an ice bath. Then, 134.6 g (0.50 mol) of 2,5-dichlorobenzoic acid chloride, and 86.7 g (0.65 mol) of aluminum chloride were slowly added such that the reaction temperature would not exceed 40° C. After the addition, the mixture was stirred at 40° C. for 8 hours. After the disappearance of the raw materials was confirmed by thin-layer chromatography, the mixture was dropped in iced water, and extraction using ethyl acetate was carried out. The extraction liquid was neutralized by 5% sodium bicarbonate water, and the resultant was washed with saturated saline water. The liquid washed was dried with magnesium sulfate, and then the solvent was distilled away using an evaporator. The residue was allowed to recrystallize in methanol, thereby an intermediate product, 2,5-dichloro-4′-fluorobenzophenone, was obtained. Amount obtained was 130 g, and yield percentage was 97%. Note that, the yield percentage was calculated by following formula (hereinafter, the same): yield percentage (%)=(amount of product obtained/theoretical amount of product)×100.

reactant | fluorobenzene | 2.50 mol, 240.2 g | FC1=CC=CC=C1 | C6H5F
reactant | 2,5-dichlorobenzoic acid chloride | 0.50 mol, 134.6 g | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
reactant | aluminum chloride | 0.65 mol, 86.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | 2,5-dichloro-4′-fluorobenzophenone | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)Cl | C13H7Cl2FO
